US03932661
A solution of 44.7 g. (0.168 mole) of p-iodobenzoyl chloride in 100 ml. of dioxane was added to 18.2 g. (0.168 mole) of phenylhydrazine dissolved in 250 ml. of pyridine at 5° to 15° C. The resulting suspension was stirred at 25° C. for 3 days, poured into 2 liters of water, the solids were filtered and washed with water, dilute aqueous hydrochloric acid and then again with water. The product thus obtained was crystallized from ethanol to give 40.0 g. (70.9% yield) of p-iodobenzoic acid phenylhydrazide having a melting point of 210° to 211° C.

reactant | p-iodobenzoyl chloride | 0.168 mole | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | phenylhydrazine | 0.168 mole | C1(=CC=CC=C1)NN | C6H8N2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | 2 liters | O | H2O
product | p-iodobenzoic acid phenylhydrazide | 70.9% yield | C1(=CC=CC=C1)N(N)C(C1=CC=C(C=C1)I)=O | C13H11IN2O
